US05571821
A. 1,1-diphenylethene-2-sulfonyl chloride
1,1-Diphenylethene (11.3 mmol, 2 ml) was added to a solution of DMF (22.7 mmol, 1.75 ml) and sulfuryl chloride (19.3 mmol, 1.55 ml) at 0° C. The reaction was heated to 90° C. for 4 hr, then cooled to ambient temperature and poured into ice (500 ml). The aqueous layer was extracted with EtOAc (2×100 ml). Then the organic was dried (MgSO4) filtered and concentrated. Flash chromatography (5% EtOAc/hexane) provided 0.92 g (29% yield) of light yellow crystals.

reactant | 1,1-Diphenylethene | 11.3 mmol, 2 ml | C1(=CC=CC=C1)C(=C)C1=CC=CC=C1 | C14H12
reactant | DMF | 22.7 mmol, 1.75 ml | CN(C)C=O | C3H7NO
reactant | sulfuryl chloride | 19.3 mmol, 1.55 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 1,1-diphenylethene-2-sulfonyl chloride | 29% yield | C1(=CC=CC=C1)C(=CS(=O)(=O)Cl)C1=CC=CC=C1 | C14H11ClO2S
